US08138347B2
b) 5-bromo-3-(4-morpholinylsulfonyl)-2-pyridinamine
To a solution of 2-amino-5-bromo-3-pyridinesulfonyl chloride (0.50 g, 1.84 mmol) in anhydrous dioxane (2 mL) cooled to 5° C. was added (0.16 mL, 1.84 mmol) of morpholine followed by (0.174 mL, 2.15 mmol) of pyridine. The reaction mixture was stirred at room temperature for 2 hrs and then heated at 50° C. for 1 hour. After cooling to room temperature, a white precipitate formed which was collected by suction filtration, washing with water and petroleum ether to give the title compound as an off-white solid. (0.539 g, 91% yield). MS(ES)+ m/e 323.9 [M+H]+.

reactant | 2-amino-5-bromo-3-pyridinesulfonyl chloride | 1.84 mmol, 0.50 g | NC1=NC=C(C=C1S(=O)(=O)Cl)Br | C5H4BrClN2O2S
reactant | morpholine | 1.84 mmol, 0.16 mL | N1CCOCC1 | C4H9NO
reactant | pyridine | 2.15 mmol, 0.174 mL | N1=CC=CC=C1 | C5H5N
solvent | dioxane | 2 mL | O1CCOCC1 | C4H8O2
product | 5-bromo-3-(4-morpholinylsulfonyl)-2-pyridinamine | 91% yield | BrC=1C=C(C(=NC1)N)S(=O)(=O)N1CCOCC1 | C9H12BrN3O3S
